US08685969B2
3. 7-Acetyl-4-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 7-bromo-4-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (0.198 g, 0.366 mmol), tributyl(1-ethoxyvinyl)stannane (0.301 mL, 0.914 mmol), bis(triphenylphosphine)palladium(II) chloride (0.039 g, 0.055 mmol), triethylamine (0.071 mL, 0.512 mmol) in 1,4-Dioxane (12 mL) was heated at 125° C. for 16 hr. Upon cooling to room temperature, the reaction mixture was filtered through CELITE®, and the filtrate was concentrated under vacuum. The residue was diluted with THF (40 mL) and stirred with 1 N HCl solution (10 mL) at 50° C. for 1 hr. The solution was concentrated under vacuum, basified with 1 N NaOH solution, and extracted with ethyl acetate (3×40 mL). The combined extract was dried over anhydrous MgSO4. The desired product (0.112 g, 0.222 mmol, 60.7% yield) was isolated as a pale yellow solid by ISCO (40 g silica gel, solid loading, 50-90% ethyl acetate/hexane).

reactant | 7-bromo-4-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.366 mmol, 0.198 g | BrC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C(C1=CC(=CC=C1C3)OC)=O)C)C(=O)N | C28H21BrN4O3
reactant | tributyl(1-ethoxyvinyl)stannane | 0.914 mmol, 0.301 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | triethylamine | 0.512 mmol, 0.071 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | 1,4-Dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.055 mmol, 0.039 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-Acetyl-4-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.222 mmol, 0.112 g, 60.7% yield | C(C)(=O)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C(C1=CC(=CC=C1C3)OC)=O)C)C(=O)N | C30H24N4O4
